US08168635B2
Trans-2-(Morpholinomethyl-5-(2′-methoxy-5′-fluorophenylethyl)tetrahydrofuran
To a flask under Ar was added trans-2-(bromomethyl)-5-(2′-methoxy-5′-fluorophenethyl)tetrahydrofuran (43 mg, 0.136 mmol), NaI (30 mg), morpholine (65 mg, 0.75 mmol), NaHCO3 (130 mg) and dry DMSO (2.5 mL) and dry THF (4 mL). The mixture thus obtained was heated to reflux under Ar(g) for 12 h. After it was cooled to room temperature, the reaction mixture was poured to a separatory funnel containing sodium bicarcarbonate aqueous solution (sat. NaHCO3:H2O=1:1, 30 mL). The organic function was extracted with ethyl acetate (3×30 mL) and the combined organic layers were washed with brine (30 mL) and dried over sodium sulfate. The solvent then was removed in vacuo and crude product thus obtained was purified by flash column chromatography (2% MeOH in CH2Cl2, 0.1% TEA, Rf=0.21) to give the product (29 mg, 66%) as an oil.

reactant | trans-2-(bromomethyl)-5-(2′-methoxy-5′-fluorophenethyl)tetrahydrofuran | 0.136 mmol, 43 mg | BrC[C@@H]1O[C@H](CC1)CCC1=C(C=CC(=C1)F)OC | C14H18BrFO2
reactant | NaI | 30 mg | [Na+].[I-]
reactant | morpholine | 0.75 mmol, 65 mg | N1CCOCC1 | C4H9NO
reactant | NaHCO3 | 130 mg | C(=O)(O)[O-].[Na+]
reactant | sodium | [Na] | Na
solvent | H2O | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
product | Morpholinomethyl-5-(2′-methoxy-5′-fluorophenylethyl)tetrahydrofuran | 29 mg, 66% | O1CCN(CC1)CC1OC(CC1)CCC1=C(C=CC(=C1)F)OC | C18H26FNO3
